US06521754B2
(2-Methoxy-5-morpholin-4-yl-phenyl)-thiourea
1 -Benzoyl-3-(2-methoxy-5-morpholin-4-yl-phenyl)-thiourea (8.0 g, 21 mmol), suspended in methanol (260 ml), are treated with 6 ml sodium methanolate (5.4M in methanol) and the mixture stirred until a white precipitate forms. The mixture is concentrated in vacuo, the crystals are isolated by filtration and washed with methanol and hexane (5.0 g 86%). MS: m/e=268 (M+).

reactant | 1 -Benzoyl-3-(2-methoxy-5-morpholin-4-yl-phenyl)-thiourea | 21 mmol, 8.0 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N1CCOCC1)OC | C19H21N3O3S
reactant | sodium methanolate | 5.4M, 6 ml | C[O-].[Na+]
solvent | methanol | 260 ml | CO | CH4O
product | (2-Methoxy-5-morpholin-4-yl-phenyl)-thiourea | COC1=C(C=C(C=C1)N1CCOCC1)NC(=S)N | C12H17N3O2S
